US05905088
(c) Preparation of methyl 5-[1-(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxymethyl)-vinyl]-3-thiophenecarboxylate
A 30% solution of sodium methoxide in methanol (1.68 ml) was added over 8 hours to a mixture of methyl 5-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-acetyl]-3-thiophenecarboxylate (4.1 g, 8 mmol) and methyltriphenylphosphine bromide (3.8 g, 10.8 mmol) in THF (50 ml).

reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl 5-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-acetyl]-3-thiophenecarboxylate | 8 mmol, 4.1 g | IC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCC(=O)C1=CC(=CS1)C(=O)OC | C22H25IO4S
reactant | methyltriphenylphosphine bromide | 10.8 mmol, 3.8 g | [Br-].CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methanol | 1.68 ml | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | methyl 5-[1-(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxymethyl)-vinyl]-3-thiophenecarboxylate | IC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCC(=C)C1=CC(=CS1)C(=O)OC | C23H27IO3S
